US04026664
In an Erlenmeyer flask of approximately 500 ml capacity 0.263 g 3,4-toluene diamine (2.15 millimoles) is combined with 56 milliliters of distilled water and 66 milliliters of hydrazine hydrate. Subsequent additions of 2.2 millimoles CoCl2 · 6H2O in 2.62 milliliters of aqueous solution and 0.288 g of methylhydroquinone give, after shaking, a yellow-orange composition containing approximately 35% hydrazine and 0.6% of 3,4-toluene diamine/cobalt/methylhydroquinone catalyst. The molar ratio 3,4-toluene diamine/cobalt (II) is approximately 1.0 in this composition.

reactant | 3,4-toluene diamine | 2.15 millimoles, 0.263 g | C1(=CC(=C(C=C1)N)N)C | C7H10N2
reactant | hydrazine hydrate | 66 milliliters | O.NN
reactant | water | 56 milliliters | O | H2O
product | methylhydroquinone | 0.288 g | CC1=C(O)C=CC(=C1)O | C7H8O2
